US09381196B2
To a solution of methyl 8-chloro-8-oxooctanoate (200 mg, 0.97 mmol) in DMF at 0° C. was added a solution of 4-nitrobiphenyl-3-amine (207 mg, 0.97 mmol) and triethylamine (0.46 mL, 3.3 mmol) in DMF drop-wise. The reaction was stirred overnight at room temperature, diluted with ethyl acetate and washed with 1 N HCl, saturated sodium bicarbonate solution and brine. The separated organic layer was concentrated and purified by biotage column chromatography to give methyl 8-(4-nitrobiphenyl-3-ylamino)-8-oxooctanoate (279 mg)

reactant | methyl 8-chloro-8-oxooctanoate | 0.97 mmol, 200 mg | ClC(CCCCCCC(=O)OC)=O | C9H15ClO3
reactant | 4-nitrobiphenyl-3-amine | 0.97 mmol, 207 mg | [N+](=O)([O-])C1=C(C=C(C=C1)C1=CC=CC=C1)N | C12H10N2O2
reactant | triethylamine | 3.3 mmol, 0.46 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 8-(4-nitrobiphenyl-3-ylamino)-8-oxooctanoate | 279 mg | [N+](=O)([O-])C1=C(C=C(C=C1)C1=CC=CC=C1)NC(CCCCCCC(=O)OC)=O | C21H24N2O5
